US04711892
3-(6-Methoxy-3-pyridyl)-2-propenoic acid [3-(5-nitro-2-furyl)-2-propen-1-ylidene]hydrazide (Compounds No. 7)
To a lukewarm solution of 0.85 g (4.4. mmol) of 3-(6-methoxy-3-pyridyl)-2-propenoic acid hydrazide in 50 ml of methanol, 0.75 g (4.5 mmol) of 3-(5-nitro-2-furyl)-2-propenal is added. A solid crystallizes slowly in the resulting homogenous solution. After the mixture has been stirred for several hours, these crystals are drained, washed with methanol and ether and dried under reduced pressure at 100° C. for 8 h.

reactant | 3-(6-methoxy-3-pyridyl)-2-propenoic acid hydrazide | 0.85 g | COC1=CC=C(C=N1)C=CC(=O)NN | C9H11N3O2
reactant | 3-(5-nitro-2-furyl)-2-propenal | 4.5 mmol, 0.75 g | [N+](=O)([O-])C1=CC=C(O1)C=CC=O | C7H5NO4
solvent | methanol | 50 ml | CO | CH4O
product | 3-(6-Methoxy-3-pyridyl)-2-propenoic acid [3-(5-nitro-2-furyl)-2-propen-1-ylidene]hydrazide | [N+](=O)([O-])C1=CC=C(O1)C=CC=NNC(C=CC=1C=NC(=CC1)OC)=O | C16H14N4O5
